US08623889B2
Step 1: 4-bromo-2,5-dimethylpyridine 1-oxide
4-Bromo-2,5-dimethylpyridine (500 mg, 2.69 mmol) was added dropwise to a solution of m-chloroperbenzoic acid (816 mg, 3.55 mmol) in dichloromethane (10 mL) at ambient temperature. The mixture was stirred at room temperature for 17 hours, poured into saturated aqueous sodium bicarbonate and sodium sulfite (2 mL, 1.0M), and extracted twice into ethyl acetate. The combined organic phases were washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo to afford a yellow crystalline solid (413 mg) which was used without further purification. LCMS: M+H+=202 & 204.

reactant | 4-Bromo-2,5-dimethylpyridine | 2.69 mmol, 500 mg | BrC1=CC(=NC=C1C)C | C7H8BrN
reactant | m-chloroperbenzoic acid | 3.55 mmol, 816 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium sulfite | 1.0M, 2 mL | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-bromo-2,5-dimethylpyridine 1-oxide | 413 mg | BrC1=CC(=[N+](C=C1C)[O-])C | C7H8BrNO
